US06231833B1
(7R,9aS)-7-(4-Fluorophenoxy)methyl-2-(pyrimidin-2-yl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine
The title compound was prepared according to Preparation 3 with 2-chloropyrimidine and (7R,9aS)-7-(4-fluorophenoxy)methyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine (Preparation 8). mp (—HCl) 283-285° C. HRMS calcd for C19H23FN4O: 342.1856; found: 342.1867.

reactant | 2-chloropyrimidine | ClC1=NC=CC=N1 | C4H3ClN2
reactant | (7R,9aS)-7-(4-fluorophenoxy)methyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | FC1=CC=C(OC[C@@H]2CC[C@@H]3N(CCNC3)C2)C=C1 | C15H21FN2O
reactant | HCl | Cl | ClH
product | (7R,9aS)-7-(4-Fluorophenoxy)methyl-2-(pyrimidin-2-yl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | FC1=CC=C(OC[C@@H]2CC[C@@H]3N(CCN(C3)C3=NC=CC=N3)C2)C=C1 | C19H23FN4O
